US08022062B2
(S)-3-tert-Butoxycarbonyl-7-chloro-6-(5-oxo-tetrahydro-furan-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine
To a solution of 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-benzo[d]azepine (137 mg, 0.356 mmol) in methanol (2 mL) add potassium hydroxide pellets (640 mg, 11.4 mmol) and heat for 3 h at 50° C. Cool to ambient temperature, add saturated aqueous NH4Cl, extract three times with EtOAc, dry over anhydrous Na2SO4, and concentrate in vacuo. Dissolve the crude thiophenol thus obtained in dry DMF (2 mL), and add with stirring sodium hydride (18 mg, 0.713 mmol, 95% dispersion), followed by (S)-(+)-dihydro-5-(p-tolylsulfonyloxymethyl)-2-(3H)-furanone (144 mg, 0.533 mmol). Continue stirring overnight at ambient temperature, then dilute cautiously with EtOAc and cold saturated aqueous NH4Cl. Extract three times with EtOAc, dry over anhydrous Na2SO4, and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (7:3) to give the title compound as a colorless oil.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-benzo[d]azepine | 0.356 mmol, 137 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium hydride | 0.713 mmol, 18 mg | [H-].[Na+]
reactant | (S)-(+)-dihydro-5-(p-tolylsulfonyloxymethyl)-2-(3H)-furanone | 0.533 mmol, 144 mg | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H]1CCC(O1)=O)C | C12H14O5S
solvent | methanol | 2 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NH4Cl | [NH4+].[Cl-]
product | (S)-3-tert-Butoxycarbonyl-7-chloro-6-(5-oxo-tetrahydro-furan-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC[C@H]2OC(CC2)=O | C20H26ClNO4S
